US07129252B2
A mixture of anthranilic acid (1.4 g) and 1-(4-aminophenyl)cyclobutane-carbonitrile (1 eq) and TEA (1.2 eq) in dichloromethane (80 ml) was stirred with EDCI (1.25 eq) and HOBt (1 eq) at RT overnight. The reaction was washed with sat. NaHCO3, H2O followed by brine, dried over Na2SO4 and evaporated. The residue was purified by column chromatography to give (2-aminophenyl)-N-[4-(cyanocyclobutyl)phenyl]-carboxamide.

reactant | anthranilic acid | 1.4 g | C(C=1C(N)=CC=CC1)(=O)O | C7H7NO2
reactant | 1-(4-aminophenyl)cyclobutane-carbonitrile | 1 eq | NC1=CC=C(C=C1)C1(CCC1)C#N | C11H12N2
reactant | EDCI | 1.25 eq | CCN=C=NCCCN(C)C | C8H17N3
reactant | HOBt | 1 eq | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
solvent | dichloromethane | 80 ml | ClCCl | CH2Cl2
product | (2-aminophenyl)-N-[4-(cyanocyclobutyl)phenyl]-carboxamide | NC1=C(C=CC=C1)C(=O)NC1=CC=C(C=C1)C1(CCC1)C#N | C18H17N3O
